US07326791B2
N-[(1R)-2-(acetylaminomethylsulfanyl)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and (1R)-2-(acetylaminomethylsulfanyl)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 89%; Rf value: 0.40 (silica gel: dichloromethane/ethanol=9:1; C25H28ClN5O3S (514.05); mass spectrum: (M+H)+=514/516 (chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1R)-2-(acetylaminomethylsulfanyl)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | C(C)(=O)NCSC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)N | C12H15ClN4OS
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N-[(1R)-2-(acetylaminomethylsulfanyl)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 89% | C(C)(=O)NCSC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C25H28ClN5O3S
